US09328067B2
methyl 3-[({2-[(1-benzofuran-2-ylsulfonyl)amino]-4-fluorophenyl}sulfanyl)methyl]benzoate
Following General Procedure B, the title compound (601 mg, 50%) was prepared from methyl 3-(((2-amino-4-fluorophenyl)thio)methyl)benzoate (750 mg, 2.58 mmol) and benzofuran-2-sulfonyl chloride (556 mg, 2.58 mmol) in pyridine (5 ml).

reactant | methyl 3-(((2-amino-4-fluorophenyl)thio)methyl)benzoate | 2.58 mmol, 750 mg | NC1=C(C=CC(=C1)F)SCC=1C=C(C(=O)OC)C=CC1 | C15H14FNO2S
reactant | benzofuran-2-sulfonyl chloride | 2.58 mmol, 556 mg | O1C(=CC2=C1C=CC=C2)S(=O)(=O)Cl | C8H5ClO3S
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | methyl 3-[({2-[(1-benzofuran-2-ylsulfonyl)amino]-4-fluorophenyl}sulfanyl)methyl]benzoate | 601 mg, 50% | O1C(=CC2=C1C=CC=C2)S(=O)(=O)NC2=C(C=CC(=C2)F)SCC=2C=C(C(=O)OC)C=CC2 | C23H18FNO5S2
